US07217697B2
4-(2-Hydroxybenzyl)-1-(2-hydroxyethyl)-5-isopropyl-1,2-dihydropyrazol-3-one
To a solution of 2-benzyloxybromobenzene (1.66 g) in tetrahydrofuran (50 mL) was added tert-butyllithium (1.6 mol/L pentane solution, 4.33 mL) at −78° C. under an argon atmosphere, and the mixture was stirred for 5 minutes. To the reaction mixture was added a solution of 1-(2-benzoyloxyethyl)-3-benzyloxy-4-formyl-5-isopropyl-1H-pyrazole (620 mg) in tetrahydrofuran (5 mL), and the mixture was stirred at 0° C. for 30 minutes. To the reaction mixture was added a saturated aqueous ammonium chloride solution, and the resulting mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: ethyl acetate/hexane=1/1–2/1) to give 2-{3-benzyloxy-4-[(2-benzyloxyphenyl)hydroxymethyl]-5-isopropylpyrazol-1-yl}ethanol (448 mg). To a solution of 2-{3-benzyloxy-4-[(2-benzyloxyphenyl)hydroxymethyl]-5-isopropylpyrazol-1-yl}ethanol (448 mg) in methanol (5 mL) was added 10% palladium-carbon powder (448 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 3 hours. The insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure to give the title compound (220 mg).

reactant | 2-{3-benzyloxy-4-[(2-benzyloxyphenyl)hydroxymethyl]-5-isopropylpyrazol-1-yl}ethanol | 448 mg | C(C1=CC=CC=C1)OC1=NN(C(=C1C(O)C1=C(C=CC=C1)OCC1=CC=CC=C1)C(C)C)CCO | C29H32N2O4
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium-carbon | 448 mg | [C].[Pd]
product | 4-(2-Hydroxybenzyl)-1-(2-hydroxyethyl)-5-isopropyl-1,2-dihydropyrazol-3-one | 220 mg | OC1=C(CC=2C(NN(C2C(C)C)CCO)=O)C=CC=C1 | C15H20N2O3
